US07049333B2
N-(2-Amino-4,5-dichlorophenyl)-N′-(4-methyl-3-thienyl)thiourea is obtained analogously to the reaction described in example 1b) from 4-methyl-3-thienyl isothiocyanate and 4,5-dichloro-1,2-diaminobenzene. Crystalline solid, m.p. 310-320° C. b) 3N-(5,6-Dichloro-2-benzimidazolyl)-4-methyl-3-thienylamine hydrochloride is obtained analogously to the procedure described in example 1c) from N-(2-amino-4,5-dichlorophenyl)-N′-(4-methyl-3-thienyl)thiourea and methyl iodide.

reactant | 4-methyl-3-thienyl isothiocyanate | CC=1C(=CSC1)N=C=S | C6H5NS2
reactant | 4,5-dichloro-1,2-diaminobenzene | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
product | (5,6-Dichloro-2-benzimidazolyl)-4-methyl-3-thienylamine hydrochloride | Cl.ClC1=CC2=C(N=C(N2)NC2=CSC=C2C)C=C1Cl | InChI=1S/C12H9Cl2N3S.ClH/c1-6-4-18-5-11(6)17-12-15-9-2-7(13)8(14)3-10(9)16-12;/h2-5H,1H3,(H2,15,16,17);1H
